US07560558B2
Compound 43: 1-{2-[(6,7-Dimethoxy-4-quinolyl)oxy]-3-fluorophenyl}-1-propanone
1-{2-[(6,7-Dimethoxy-4-quinolyl)oxy]-3-fluorophenyl}-1-propanol was dissolved in anhydrous dimethylsulfoxide (1 ml). Sulfur trioxide trimethylamine complex (70 mg) was added to the solution at 0° C., and the mixture was stirred at room temperature for 18 hr. Water (1 ml) was added dropwise to the reaction solution to stop the reaction. The reaction solution was extracted with ethyl acetate, and the ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by chromatography on silica gel using ethyl acetate-hexane for development to give the title compound (2 mg, yield 1%).

reactant | 1-{2-[(6,7-Dimethoxy-4-quinolyl)oxy]-3-fluorophenyl}-1-propanol | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=CC=C1F)C(CC)O | C20H20FNO4
reactant | Water | 1 ml | O | H2O
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
product | 1-{2-[(6,7-Dimethoxy-4-quinolyl)oxy]-3-fluorophenyl}-1-propanone | 2 mg, yield 1% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=CC=C1F)C(CC)=O | C20H18FNO4
